US06569851B1
Preparation of 5-{N′-(Acetyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one
Following General Procedure C-P using acetic acid and 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one, as described in Example 7-B, the title compound was prepared. The molecular weight as determined by mass spectrometry (FD) was: 352 (M+H).

reactant | 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N | C18H19N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 5-{N′-(Acetyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | C(C)(=O)N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N | C20H21N3O3
